* sdm3 SNDR run: fs=256 kHz (OSR=1280), 32 Hz 0.6 FS input, 322.5 ms tran.
* 10 ms startup skip + 10 coherent 32 Hz cycles (80000 samples) for FFT.
* Memory-safe: only time + v(BIT) saved.
.lib /Users/noah/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_tg_lowq.spice
.include eeg_fd_ota_core_soft.spice
.include eeg_pseudo_res.spice
.include eeg_bias_gen.spice
.include eeg_fd_ota_chopped_full2.spice
.include eeg_fd_ota_full2_nc.spice
.include eeg_sd_int.spice
.include sdm3_int1.spice
.include eeg_strongarm.spice
.include sdm3_mod.spice
.param VDD=1.80 VCM=0.9 TCLK=3.90625u
VDD_SRC VDD18 0 {VDD}
VREF VCM_REF 0 {VCM}
VVP VP 0 {VCM+25m}
VVN VN 0 {VCM-25m}
VPH1 PH1 0 PULSE(0 {VDD} 0.1u 30n 30n 1.62u {TCLK})
VPH2 PH2 0 PULSE(0 {VDD} 2.053u 30n 30n 1.62u {TCLK})
VCMPCK CMPCK 0 PULSE(0 {VDD} 1.30u 20n 20n 0.36u {TCLK})
BNPH1 NPH1 0 V={VDD}-v(PH1)
BNPH2 NPH2 0 V={VDD}-v(PH2)
VINP VINP 0 SIN({VCM} 15m 32)
VINN VINN 0 SIN({VCM} 15m 32 0 0 180)
XSDM VINP VINN VCM_REF VP VN BIT NBIT O1P O1N O2P O2N PH1 NPH1 PH2 NPH2 CMPCK VDD18 0 sdm3_mod
.nodeset v(BIT)=1.8 v(NBIT)=0 v(O1P)=0.93 v(O1N)=0.93 v(O2P)=0.93 v(O2N)=0.93
.nodeset v(XSDM.XINT1.INP)=0.9 v(XSDM.XINT1.INN)=0.9 v(XSDM.XINT2.INP)=0.9 v(XSDM.XINT2.INN)=0.9
.control
set noaskquit
.options trtol=1
save time v(BIT)
tran 25n 74m
wrdata ../results/sdm3_t25.csv time v(BIT)
quit
.endc
.end
